US07179820B2
Triphenylphosphine (10.94 g, 41.7 mmol) and iodine (10.55 g, 41.6 mmol were added sequentially to a solution of (4-hydroxy-but-2-ynyloxy)-acetonitrile (4.35 g, 34.8 mmol) in CH2Cl2 (100 mL). The reaction mixture became homogeneous after 5 min at rt and imidazole (2.76 g, 40.5 mmol) was added slowly in small portions. After 1.5 h at rt, the reaction was filtered through activity I basic alumina, washing with 20% EtOAc/Hexane. The filtrate was concentrated in vacuo then purified by flash column chromatography on silica gel (hexane→10% EtOAc/hexane, gradient) to afford 7.51 g (92%) of (4-iodo-but-2-ynyloxy)-acetonitrile.

reactant | Triphenylphosphine | 41.7 mmol, 10.94 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | II | I2
reactant | (4-hydroxy-but-2-ynyloxy)-acetonitrile | 34.8 mmol, 4.35 g | OCC#CCOCC#N | C6H7NO2
reactant | imidazole | 40.5 mmol, 2.76 g | N1C=NC=C1 | C3H4N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (4-iodo-but-2-ynyloxy)-acetonitrile | 7.51 g, 92% | ICC#CCOCC#N | C6H6INO
